US06541504B1
3-(3H-Isobenzofuran-1-ylidene)-4-methyl-1,3-dihydro-indol-2-one
To a solution containing 4-methyloxindole (0.15 g, 1.02 mmol) and phthalide (0.178 g, 1.33 mmol) in 3.0 mL DMF was added 2.14 mL of sodium hexamethyldisilazane (1.0 M in tetrahydrofuran (THF)) over 1 min. The solution was stirred at room temperature for 30 min and then poured into 50 mL of 4% HCl to give a yellow solid. The aqueous mixture was extracted with EtOAc and the organic phase washed with saturated NaHCO3, H2O, dilute HCl, brine and the solution dried with Na2SO4. The solvent was removed in vacuo and the solid obtained was purified by chromatography (silica gel, CHCl3/EtOAc, 7:3). The solid obtained was recrystallized from EtOAc/hexanes to afford the title compounds (3.8 mg) as a yellow solid.

reactant | 4-methyloxindole | 1.02 mmol, 0.15 g | CC1=C2CC(NC2=CC=C1)=O | C9H9NO
reactant | phthalide | 1.33 mmol, 0.178 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | sodium hexamethyldisilazane | 1.0 M, 2.14 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | HCl | 50 mL | Cl | ClH
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | 3-(3H-Isobenzofuran-1-ylidene)-4-methyl-1,3-dihydro-indol-2-one | 3.8 mg | C1(OCC2=CC=CC=C12)=C1C(NC2=CC=CC(=C12)C)=O | C17H13NO2
